2109-07-01 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2109-6-30**] 01:16 PM
   -persistently pressor dependent -- titrated down from levaphed, had a
   run of 15 beats of non sustained VT
   -now on neosynephrine
   -given a total of 8L fluids since ER
   -no culture growth to date
   Allergies:
   Risperdal (Oral) (Risperidone)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-7-1**] 04:19 AM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-7-1**] 05:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  demented, unable to obtain
   Flowsheet Data as of  [**2109-7-1**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.6
C (96
   HR: 65 (48 - 109) bpm
   BP: 133/57(76) {82/45(54) - 133/89(109)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.2 kg (admission): 76.2 kg
   Height: 63 Inch
    CVP: 10 (9 - 15)mmHg
   CO/CI (Fick): (5.6 L/min) / (3.1 L/min/m2)
   SvO2: 62%
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  6,783 mL
                                                                  2,279 mL
   PO:
   TF:
   IVF:
                                                                  1,083 mL
                                                                  2,279 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    660 mL
   Urine:
                                                                  1,340 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,443 mL
                                                                  1,619 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: Overweight / Obese
   Lungs:  mild bilateral inspiratory crackles
   CV:  Reg. rate and rhythm, nl S1, S2, no murmurs, gallops, or rubs.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   404 K/uL
   9.3 g/dL
   165 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.5 mEq/L
   36 mg/dL
   112 mEq/L
   139 mEq/L
   27.9 %
   29.9 K/uL
        [image002.jpg]
                             [**2109-6-30**]  01:23 PM
                             [**2109-6-30**]  01:38 PM
                             [**2109-6-30**]  06:30 PM
                             [**2109-7-1**]  05:27 AM
   WBC
   36.4
   29.9
   Hct
   28.0
   25
   27.1
   27.9
   Plt
   377
   404
   Cr
   1.0
   Glucose
   165
   Other labs: Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.3 %,
   Mono:2.8 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L, Ca++:7.0 mg/dL, Mg++:2.1
   mg/dL, PO4:2.5 mg/dL
   Microbiology: blood culture, urine culture, urine leigonella pending
   Assessment and Plan
   Assessment and Plan
   A/P: 76 yo F with a history of dementia, schizophrenia, DM and T12
   burst fracture complicated by lower extremity paralysis admitted from a
   nursing home with fevers, hypotension and hypoxia consistent with
   sepsis physiology.
   .# Sepsis. Presumed urosepsis due to prior UTI in nursing home,
   currently on phenylephrine (1.5mcg) and receiving fluid boluses.
   - Follow up blood, urine, sputum cultures.
   - Continue to volume rescucitate as needed.
   - Broad spectrum antibiotics with vancomycin and zosyn.
   - Check vancomycin trough tomorrow (goal 15-20)
   - Titrate phenylephrine for pressure support as necessary.
   # Hypoxia. Etiology possibly due to aspiration, PNA, or volume
   overload. No convincing pulmonary infiltrate on CXR. Improving
   oxygenation on presentation to the ICU. Concern for early ARDS. This
   may also be related to baseline COPD.
   - Run I/O
s to even
   # Acute renal failure. Likely secondary to sepsis physiology. As above.
   - Trend Cr.
   # Gap metabolic acidosis. AG of 18 likely secondary to lactate
   elevation in the setting of sepsis physiology.
   # Sacral decubitus ulcer. Recently seen by plastics as an outpatient.
   Appears much improved on exam compared to description from prior notes.
   - Plastics consult as necessary.
   - Wound care nursing consult.
   - Destin cream, moist 2x2 twice daily to sacral decubitus and protect
   with thin DuoDerm dressing. Limit diaper use as much as possible and
   treat diaper rash.
   # Anemia. Currently above baseline, expect that this will decline with
   volume rescucitation. Likely in part due to known GI bleeding history.
   - Continue to trend.
   - Continue home iron supplementation.
   - Maintain active type and screen.
   - Guaiac all stools.
   # Cardiac enzyme elevation. Very modest elevations, less than that seen
   on prior testing. No suggestion of active or recent ischemia. No
   indication for repeat testing.
   # Mild transaminitis. Etiology unclear. [**Name2 (NI) 2261**] on prior lab draws.
   - Continue to trend.
   # Schizophrenia and dementia. Stable.
   - Continue home olanzapine and mirtazipine.
   # COPD. Stable.
   - Continue fluticasone, ipratropium and albuterol.
   # Diabetes mellitus.
   - Continue Insulin sliding scale.
   # GERD.
   - Continue home lansoprazole and calcium carbonate.
   # Hyptertension.
   - Hold antihypertensives in the setting of sepsis physiology.
   # Dyslipidemia.
   - Continue home statin.
   # Osteoarthritis.
   - Acetaminophen as needed for pain..
   # Neuropathy.
   - Continue home gabapentin.
   # FEN: PEG tube feeding. Known aspiration risk, avoid all feeding from
   above. MVI and vitamin D3 supplementation as per home regimen.
   # Prophylaxis: On Heparin SQ, PPI, bowel regimen.
   # Access: Right IJ, peripheral IV'.
   # Contact: [**Name (NI) 648**] [**Name (NI) **] [**Name (NI) 3307**] [**Telephone/Fax (1) 3308**] (AdvoGuard [**Telephone/Fax (1) 3308**])
   # Code: Full
   # Dispo: ICU.
   ICU Care
   Nutrition: PEG tube feeding
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2109-6-30**] 01:16 PM
   20 Gauge - [**2109-6-30**] 05:38 PM
   18 Gauge - [**2109-6-30**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2109-07-01 09:21:00 Physician Attending Progress Note
Chief Complaint: Septic shock with presumed urinary source
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Dementia, Schizophrenia, DM, paralyzed from waist down from t12 fx
   Large sacral decub
   24 Hour Events:
 MULTI LUMEN - START [**2109-6-30**] 01:16 PM
   Remaining on pressors, now on Neo
   8 liters fluid
   Allergies:
   Risperdal (Oral) (Risperidone)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-7-1**] 04:19 AM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-7-1**] 05:42 AM
   Other medications:
   Vancomycin, RISS, gabapentin, lanszoprazole, atrovent, flonase,
   flovent, elanzopine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-7-1**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.8
C (96.4
   HR: 58 (48 - 109) bpm
   BP: 125/54(72) {82/45(54) - 133/89(109)} mmHg
   RR: 19 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77.2 kg (admission): 76.2 kg
   Height: 63 Inch
   CVP: 10 (9 - 15)mmHg
   CO/CI (Fick): (6.9 L/min) / (3.9 L/min/m2)
   SvO2: 71%
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  6,783 mL
                                                                  2,414 mL
   PO:
   TF:
   IVF:
                                                                  1,083 mL
                                                                  2,414 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    840 mL
   Urine:
                                                                  1,340 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,443 mL
                                                                  1,574 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, No(t) Rash: , Sacral decubs
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   404 K/uL
   118 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.7 mEq/L
   30 mg/dL
   113 mEq/L
   141 mEq/L
   27.9 %
   29.9 K/uL
        [image002.jpg]
                             [**2109-6-30**]  01:23 PM
                             [**2109-6-30**]  01:38 PM
                             [**2109-6-30**]  06:30 PM
                             [**2109-7-1**]  05:27 AM
   WBC
   36.4
   29.9
   Hct
   28.0
   25
   27.1
   27.9
   Plt
   377
   404
   Cr
   1.0
   0.8
   Glucose
   165
   118
   Other labs: ALT / AST:47/36, Alk Phos / T Bili:227/0.4,
   Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.3 %, Mono:2.8 %, Eos:0.0
   %, Lactic Acid:2.0 mmol/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Imaging: Right mid lung zone infiltrate, consistent with developing PNA
   Assessment and Plan
   Septic Shock - pressor dependent but improving since got IV fluids.
   Likely urosepsis, levoflox may not be covering as had cipro-resistant e
   coli in past
   Pneumonia no tunlikely with sputum, changes in CXR, covered by
   Vanc/Zosyn
    f/u cultures. EGDT being followed, much improved now
   Remove foley catheter
   Anemia
 at baseline
   ARF - resolving
   DM - on ISS
   GERD - on PPI
   HTN - hold antihypertensives
   FEN - NPO, tube feeds, Cl elevated, maintenance D5 1/2NS
   Access - rt IJ, peripheral
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-6-30**] 11:09 AM
   Multi Lumen - [**2109-6-30**] 01:16 PM
   18 Gauge - [**2109-6-30**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code, need to discuss further with proxy
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2109-07-02 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2109-7-1**] 01:00 PM
   - Persistent drops in CVP throughout night -- was given 500cc and 1L
   boluses twice to maintain CVP above 8.
   - Neosynephrine continued at 1 mcg with MAPs in the mid 60s.  When
   titrated down to 0.5 mcg, MAPs drop to mid 50s.
   - Cosyntropin stim test ordered for the 4am labs.
   - Urine Legionella antigen negative, blood cultures still pending
   Allergies:
   Risperdal (Oral) (Risperidone)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2109-7-1**] 07:57 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-7-2**] 04:22 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-7-2**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2109-7-2**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.2
C (97.2
   HR: 64 (55 - 95) bpm
   BP: 93/36(50) {56/25(35) - 131/77(86)} mmHg
   RR: 18 (17 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.2 kg (admission): 76.2 kg
   Height: 63 Inch
    CVP: 13 (6 - 13)mmHg
   CO/CI (Fick): (6.9 L/min) / (3.9 L/min/m2)
   SvO2: 71%
   Total In:
                                                                  5,417 mL
                                                                    303 mL
   PO:
   TF:
   IVF:
                                                                  5,057 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                    810 mL
   Urine:
                                                                  2,225 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,192 mL
                                                                   -507 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : Inspiratory and
   expiratory bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   334 K/uL
   8.6 g/dL
   109 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.3 mEq/L
   20 mg/dL
   111 mEq/L
   136 mEq/L
   26.5 %
   18.5 K/uL
        [image002.jpg]
                             [**2109-6-30**]  01:23 PM
                             [**2109-6-30**]  01:38 PM
                             [**2109-6-30**]  06:30 PM
                             [**2109-7-1**]  05:27 AM
                             [**2109-7-1**]  09:40 AM
                             [**2109-7-2**]  05:08 AM
   WBC
   36.4
   29.9
   18.5
   Hct
   28.0
   25
   27.1
   27.9
   29
   26.5
   Plt
   377
   404
   334
   Cr
   1.0
   0.8
   0.9
   Glucose
   165
   118
   109
   Other labs: ALT / AST:32/17, Alk Phos / T Bili:227/0.4,
   Differential-Neuts:88.2 %, Band:0.0 %, Lymph:7.9 %, Mono:2.5 %, Eos:1.1
   %, Lactic Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   Assessment and Plan
   A/P: 76 yo F with a history of dementia, schizophrenia, DM and T12
   burst fracture complicated by lower extremity paralysis admitted from a
   nursing home with fevers, hypotension and hypoxia consistent with
   sepsis physiology.
   # Sepsis. Presumed urosepsis due to prior UTI in nursing home,
   currently on phenylephrine (0.8mcg) and receiving fluid boluses.
   - Follow up blood, urine, sputum cultures.
   - Vanc trough at 27
 set vanc to Q24H
   - Continue to volume rescucitate as needed.
   - Continue Broad spectrum antibiotics with vancomycin and zosyn.
   - Titrate phenylephrine for pressure support as necessary.
   # Hypoxia. Etiology possibly due to aspiration, PNA, or volume
   overload. No convincing pulmonary infiltrate on CXR. Improving
   oxygenation on presentation to the ICU. Concern for early ARDS. This
   may also be related to baseline COPD.
   - Run I/O
s to even
   # Acute renal failure. Likely secondary to sepsis physiology. As above.
   - Trend Cr.
   # Gap metabolic acidosis. AG of 18 likely secondary to lactate
   elevation in the setting of sepsis physiology.
   # Sacral decubitus ulcer. Recently seen by plastics as an outpatient.
   Appears much improved on exam compared to description from prior notes.
   - Plastics consult as necessary.
   - Wound care nursing consult.
   - Destin cream, moist 2x2 twice daily to sacral decubitus and protect
   with thin DuoDerm dressing. Limit diaper use as much as possible and
   treat diaper rash.
   # Anemia. Currently above baseline, expect that this will decline with
   volume rescucitation. Likely in part due to known GI bleeding history.
   - Continue to trend.
   - Continue home iron supplementation.
   - Maintain active type and screen.
   # Cardiac enzyme elevation. Very modest elevations, less than that seen
   on prior testing. No suggestion of active or recent ischemia. No
   indication for repeat testing.
   # Mild transaminitis. Etiology unclear. [**Name2 (NI) 2261**] on prior lab draws.  No
   longer present.
   - Continue to trend.
   # Schizophrenia and dementia. Stable.
   - Continue home olanzapine and mirtazipine.
   # COPD. Stable.
   - Continue fluticasone, ipratropium and albuterol.
   # Diabetes mellitus.
   - Continue Insulin sliding scale.
   # GERD.
   - Continue home lansoprazole and calcium carbonate.
   # Hyptertension.
   - Hold antihypertensives in the setting of sepsis physiology.
   # Dyslipidemia.
   - Continue home statin.
   # Osteoarthritis.
   - Acetaminophen as needed for pain..
   # Neuropathy.
   - Continue home gabapentin.
   # FEN: PEG tube feeding. Known aspiration risk, avoid all feeding from
   above. MVI and vitamin D3 supplementation as per home regimen.
   # Prophylaxis: On Heparin SQ, PPI, bowel regimen, compression stockings
   started.
   # Access: Right IJ, peripheral IV'.
   # Contact: [**Name (NI) 648**] [**Name (NI) **] [**Name (NI) 3307**] [**Telephone/Fax (1) 3308**] (AdvoGuard [**Telephone/Fax (1) 3308**])
   # Code: DNR/DNI
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-6-30**] 11:09 AM
   Multi Lumen - [**2109-6-30**] 01:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-07-02 11:04:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.2
F - [**2109-7-1**] 01:00 PM
   CVP dropping tx'd with fluid, requiring neo for BP support
   History obtained from Patient
   Allergies:
   Risperdal (Oral) (Risperidone)
   Unknown;
   Ace Inhibitors
   Angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2109-7-1**] 07:57 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-7-2**] 04:22 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-7-2**] 06:12 AM
   Other medications:
   gabapentin, lanzsoprazole, feso4, mirtazipine, olanzapine, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-7-2**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.3
C (97.3
   HR: 69 (59 - 95) bpm
   BP: 137/76(91) {56/25(35) - 137/77(91)} mmHg
   RR: 27 (17 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.2 kg (admission): 76.2 kg
   Height: 63 Inch
   CVP: 8 (6 - 15)mmHg
   Total In:
                                                                  5,417 mL
                                                                    411 mL
   PO:
   TF:
   IVF:
                                                                  5,057 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                  1,290 mL
   Urine:
                                                                  2,225 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,192 mL
                                                                   -879 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): 3, Movement: Purposeful, Tone: Decreased in LE's
   Labs / Radiology
   8.6 g/dL
   334 K/uL
   109 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.3 mEq/L
   20 mg/dL
   111 mEq/L
   136 mEq/L
   26.5 %
   18.5 K/uL
        [image002.jpg]
                             [**2109-6-30**]  01:23 PM
                             [**2109-6-30**]  01:38 PM
                             [**2109-6-30**]  06:30 PM
                             [**2109-7-1**]  05:27 AM
                             [**2109-7-1**]  09:40 AM
                             [**2109-7-2**]  05:08 AM
   WBC
   36.4
   29.9
   18.5
   Hct
   28.0
   25
   27.1
   27.9
   29
   26.5
   Plt
   377
   404
   334
   Cr
   1.0
   0.8
   0.9
   Glucose
   165
   118
   109
   Other labs: ALT / AST:32/17, Alk Phos / T Bili:227/0.4,
   Differential-Neuts:88.2 %, Band:0.0 %, Lymph:7.9 %, Mono:2.5 %, Eos:1.1
   %, Lactic Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   1)Septic Shock - pressor dependent but improving since got IV fluids.
   Much more alert today
   Likely urosepsis, on Zosyn, Vanco
   2) Pneumonia not unlikely with sputum, changes in CXR, covered by
   Vanc/Zosyn
   f/u cultures. EGDT being followed, much improved now
   3) Anemia
 at baseline
   4)  ARF - resolving
    5) DM - on ISS
    6) GERD - on PPI
   7)  HTN by history- hold antihypertensives
   8) Sacral decub - wound care following
   FEN - can restart tube feeds, Cl elevated, maintenance D5 1/2NS
   Access - rt IJ, peripheral
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2109-6-30**] 11:09 AM
   Multi Lumen - [**2109-6-30**] 01:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill